US07939528B2
A solution of 5-chloro-2-nitro-4-(trifluoromethyl)aniline (0.240 g, 1.00 mmol), potassium t-butoxide (0.135 g, 1.2 mmol), and 4-hydroxybenzaldehyde (0.147 g, 1.2 mmol) in dimethylformamide (5 mL) was heated to 80 degrees Centigrade for 6 hours and then cooled. Water was added and the organics extracted using ethyl acetate (2×50 mL). The combined organics were then washed once in brine and then dried (Na2SO4), filtered and concentrated. Chromatography on silica gel using a gradient of 30%-40% ethyl acetate/hexanes eluted the product to give 0.243 g of 4-{[5-amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}benzaldehyde as an yellowish solid.

reactant | 5-chloro-2-nitro-4-(trifluoromethyl)aniline | 1.00 mmol, 0.240 g | ClC=1C(=CC(=C(N)C1)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | potassium t-butoxide | 1.2 mmol, 0.135 g | CC(C)([O-])C.[K+]
reactant | 4-hydroxybenzaldehyde | 1.2 mmol, 0.147 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-{[5-amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}benzaldehyde | 0.243 g | NC=1C(=CC(=C(C1)OC1=CC=C(C=O)C=C1)C(F)(F)F)[N+](=O)[O-] | C14H9F3N2O4
